US05116862
A mixture consisting of 2,2-dimethyl-5-ethoxymethyl-5-hydroxymethyl-1,3-dioxane (15.0 g) and Amberlyst "15" (3.0 g) in methanol (500 ml) containing water (10 ml) was refluxed with stirring for 4 hours. The mixture was filtered and the filtrate was evaporated in vacuo. 2-Ethoxymethyl-2-hydroxymethylpropan-1,3-diol was obtained as a viscous oil (10.5 g) and was used without further purification.

reactant | 2,2-dimethyl-5-ethoxymethyl-5-hydroxymethyl-1,3-dioxane | 15.0 g | CC1(OCC(CO1)(CO)COCC)C | C10H20O4
reactant | water | 10 ml | O | H2O
solvent | methanol | 500 ml | CO | CH4O
product | 2-Ethoxymethyl-2-hydroxymethylpropan-1,3-diol | C(C)OCC(CO)(CO)CO | C7H16O4
